US07615568B2
C. (2S)-3-(t-Butoxycarbonylamino)-2-methoxypropyl Triisopropylsilyl Ether
Using a procedure analogous to Example 57-B, (2S)-3-(t-butoxycarbonylamino)-2-hydroxypropyl triisopropylsilyl ether and methyl iodide gave the title compound (4.2 g, 81%).

reactant | (2S)-3-(t-butoxycarbonylamino)-2-hydroxypropyl triisopropylsilyl ether | C(C)(C)[Si](C(C)C)(C(C)C)OC[C@H](CNC(=O)OC(C)(C)C)O | C17H37NO4Si
reactant | methyl iodide | CI | CH3I
product | (2S)-3-(t-Butoxycarbonylamino)-2-methoxypropyl Triisopropylsilyl Ether | 4.2 g, 81% | C(C)(C)[Si](C(C)C)(C(C)C)OC[C@H](CNC(=O)OC(C)(C)C)OC | C18H39NO4Si
